US08981084B2
(4-(Pyrimidin-2-yl)piperazin-1-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone
This compound was synthesized from 2-piperazin-1-yl-pyrimidine and 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid as described for example 37 step 3 (52 mg, yield 33%). 1H NMR (400 MHz, CDCl3) δ 8.35 (d, J=4.7 Hz, 2H), 8.23-8.21 (m, 2H), 7.68-7.61 (m, 2H), 6.58-6.56 (t, J=4.7 Hz, 1H), 3.97-3.85 (m, 6H), 3.53 (m, 2H). MS (ESI) m/z: Calculated for C18H16F3N6O2: 404.12. found: 405.1 (M+H)+

reactant | 2-piperazin-1-yl-pyrimidine | N1(CCNCC1)C1=NC=CC=N1 | C8H12N4
reactant | 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | FC(C1=NC(=NO1)C=1C=C(C(=O)O)C=CC1)(F)F | C10H5F3N2O3
product | (4-(Pyrimidin-2-yl)piperazin-1-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone | yield 33% | N1=C(N=CC=C1)N1CCN(CC1)C(=O)C1=CC(=CC=C1)C1=NOC(=N1)C(F)(F)F | C18H15F3N6O2
